US04140843
α,α'-dichloro-2,5-difluoro-para-xylene
While cooling with ice, 3 g of triethylamine are added to a mixture of 25 g of phosphorus pentachloride and 25 g of phosphorus oxychloride. After that, a solution of 2.2 g of α,α'-dihydroxy-2,5-difluoro-para-xylene in 10 ml of tetrachloromethane are added. The batch is heated at 70° C. for two hours. It is then cooled, poured onto ice, and dissolved in benzene. The benzene solution is washed with aqueous sodium carbonate solution, then dried with calcium chloride. The solvent is evaporated and the residue recrystallized several times from aqueous methanol. There are obtained 1.85 g of fine colorless needles melting at 62.5 - 64.5° C.

reactant | triethylamine | 3 g | C(C)N(CC)CC | C6H15N
reactant | phosphorus pentachloride | 25 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 25 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | α,α'-dihydroxy-2,5-difluoro-para-xylene | 2.2 g | OCC1=C(C=C(C(=C1)F)CO)F | C8H8F2O2
reactant | tetrachloromethane | 10 ml | ClC(Cl)(Cl)Cl | CCl4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | α,α'-dichloro-2,5-difluoro-para-xylene | 1.85 g | ClCC1=C(C=C(C(=C1)F)CCl)F | C8H6Cl2F2
